US08278473B2
To a solution of 37.7 g (137 mmol) of ethyl 2,3-dibromo-2-methylpropanoate in 176 ml of THF was added 25 ml of 1,8-diazabicyclo[5.4.0]-7-undecene and refluxed for 2 hours. After cooling to room temperature, to the mixture was added 1N HCl and extracted with tert-butyl methyl ether. The organic layer was washed sequentially with a saturated NaHCO3 solution and a saturated NaCl solution, dried over anhydrous MgSO4, and then concentrated under vacuum to obtain 23.8 g of (E)-ethyl 3-bromo-2-methyl-2-propenoate.

reactant | ethyl 2,3-dibromo-2-methylpropanoate | 137 mmol, 37.7 g | BrC(C(=O)OCC)(CBr)C | C6H10Br2O2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 25 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 176 ml | C1CCOC1 | C4H8O
product | (E)-ethyl 3-bromo-2-methyl-2-propenoate | 23.8 g | Br/C=C(/C(=O)OCC)\C | C6H9BrO2
